US07750155B2
A solution of (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (160 mg) in EtOH (1.6 mL) was added 2N—HCl solution in EtOH (0.9 mL) and stirred for 3 hours at ambient temperature. The solvent was evaporated in vacuo. To the residue was added IPE. The resulting solid was collected by the filtration to give (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide dihydrochloride (116 mg).

reactant | (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 160 mg | FC=1C=C(C=CC1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C24H30FN5O3
reactant | HCl | Cl | ClH
solvent | EtOH | 1.6 mL | CCO | C2H6O
solvent | EtOH | 0.9 mL | CCO | C2H6O
product | (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-hydroxyacrylamide dihydrochloride | 116 mg | Cl.Cl.FC=1C=C(C=CC1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NO | InChI=1S/C19H22FN5O2.2ClH/c20-15-3-1-2-14(10-15)6-8-25-9-7-17(13-25)23-18-12-21-16(11-22-18)4-5-19(26)24-27;;/h1-5,10-12,17,27H,6-9,13H2,(H,22,23)(H,24,26);2*1H/b5-4+;;/t17-;;/m1../s1
